US08283353B2
4′-({7-butyl-4-[3-fluoro-4-(1-methylethoxy)phenyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a suspension (15 mL) of 4′-[(7-butyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.5 g), [3-fluoro-4-(1-methylethoxy)phenyl]boronic acid (0.51 g), triethylamine (0.5 mL), pyridine (1 mL) and molecular sieves 4A (1 g) in dichloromethane was added copper(II) acetate (0.47 g), and the mixture was stirred for 16 hr. The reaction mixture was diluted with ethyl acetate, insoluble material was filtered off through celite, and the filtrate was concentrated. The residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.68 g, 98%).

reactant | 4′-[(7-butyl-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 15 mL, 0.5 g | C(CCC)C1=C(C(NC=2N1N=CN2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C23H21N5O
reactant | [3-fluoro-4-(1-methylethoxy)phenyl]boronic acid | 0.51 g | FC=1C=C(C=CC1OC(C)C)B(O)O | C9H12BFO3
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) acetate | 0.47 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4′-({7-butyl-4-[3-fluoro-4-(1-methylethoxy)phenyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.68 g, 98% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2=CC(=C(C=C2)OC(C)C)F)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C32H30FN5O2
